US07902363B2
n-BuLi (16.6 mL, 1.6 M in hexanes) was added over 10 minutes to a solution of 1-iodo-4-octylbenzene from Part A (6.9 g, 21.8 mmol) in dry THF (100 mL) at −78° C. under a nitrogen atmosphere. The mixture was stirred for another 10 minutes at −78° C. 2-Isopropoxy-4,4,5,5-tetramethyl[1,3,2]dioxaborolane (6.21 mL, 30.4 mmol) was subsequently added dropwise to the mixture and stirring was continued at room temperature overnight. The reaction was then quenched with distilled water, and THF was removed under vacuum. The product was then extracted into diethyl ether and the organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo to give 6.38 g of 4,4,5,5-tetramethyl-2-(4-octylphenyl)-1,3,2-dioxaborolane as a colorless oil. The product was used in the next step without further purification.

reactant | n-BuLi | 1.6 M, 16.6 mL | [Li]CCCC
reactant | 1-iodo-4-octylbenzene | IC1=CC=C(C=C1)CCCCCCCC | C14H21I
reactant | 2-Isopropoxy-4,4,5,5-tetramethyl[1,3,2]dioxaborolane | 30.4 mmol, 6.21 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,4,5,5-tetramethyl-2-(4-octylphenyl)-1,3,2-dioxaborolane | 6.38 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCCCCCC)C | C20H33BO2
